### PR TITLE
feat: `switch_fuzzy_zero_iff` and `switch_fuzzy_self_iff`

### PR DESCRIPTION
**Pull request by plp127**
Characterize when `switch x` is confused to `0` and when it's confused to `x`. Follow-up to #421.

---

- [x] depends on: #424

### CODE REVIEW

File: CombinatorialGames/Game/Special.lean [hunk 1]
```diff
@@ -237,5 +237,31 @@ theorem switch_equiv_zero_iff {x : IGame} : ±x ≈ 0 ↔ ¬0 ≤ x := by
 
 alias ⟨_, switch_equiv_zero⟩ := switch_equiv_zero_iff
 
+theorem switch_fuzzy_zero_iff {x : IGame} : ±x ‖ 0 ↔ 0 ≤ x := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean:240]: I think you can generalize this to `x ≈ y ↔ ¬ x ∥ y` whenever `x ≈ -x` and `y ≈ -y`. This generalization should also be useful for golfing some theorems on impartial games.

File: CombinatorialGames/Game/Special.lean [hunk 2]
```diff
@@ -237,5 +237,31 @@ theorem switch_equiv_zero_iff {x : IGame} : ±x ≈ 0 ↔ ¬0 ≤ x := by
...
+  by_cases h0x : 0 ≤ x
+  · apply iff_of_true
+    · constructor
+      · apply left_lf
+        simp
+      · intro h
+        have hlt : 0 < ±x := h0x.trans_lt (lt_of_le_not_ge h (left_lf (by simp)))
+        apply hlt.not_gt
+        rw [← neg_switch, IGame.neg_lt_zero]
+        exact hlt
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean]: Likewise, these lines could be golfed if we had the theorem that `¬ x < y` whenever `x ≈ -x` and `y ≈ -y`.

File: CombinatorialGames/Game/Special.lean (hunk 1 above)
Comment (plp127) [reply CombinatorialGames/Game/Special.lean:240]: I think this works more generally for two finite order elements (`x ≈ -x` is order dividing 2)

Comment (plp127) [reply CombinatorialGames/Game/Special.lean:240]: and, more generally it works for any ordered group

Comment (plp127) [reply CombinatorialGames/Game/Special.lean:240]: opened #424

File: CombinatorialGames/Game/Special.lean [hunk 3]
```diff
@@ -237,5 +237,28 @@ theorem switch_equiv_zero_iff {x : IGame} : ±x ≈ 0 ↔ ¬0 ≤ x := by
...
+
+theorem switch_fuzzy_self_iff {x : IGame} : ±x ‖ x ↔ ¬x < 0 := by
+  by_cases h0x : 0 ≤ x
+  · apply iff_of_true
+    · constructor
+      · apply left_lf
+        simp
+      · intro h
+        absurd h0x.trans_lt (lt_of_le_not_ge h (left_lf (by simp)))
+        exact not_lt_of_equiv_neg neg_zero.symm.antisymmRel (neg_switch x).symm.antisymmRel
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean:255]: Huh, something I didn't notice about #424 is that we usually write `-x ≈ x` rather than `x ≈ -x`. Perhaps we should switch them around?

Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean:255]:
```suggestion
  · refine iff_of_true ⟨left_lf ?_, fun h ↦ ?_⟩ h0x.not_gt
    · simp
    · absurd h0x.trans_lt (lt_of_le_not_ge h (left_lf (by simp)))
      exact not_lt_of_equiv_neg neg_zero.symm.antisymmRel (neg_switch x).symm.antisymmRel
```

Comment (plp127) [reply CombinatorialGames/Game/Special.lean:255]: perhaps?

Comment (vihdzp) [reply CombinatorialGames/Game/Special.lean]: I mean, the alternative is switching the entirety of the `Impartial` API to use `x ≈ -x`, which seems tedious and ugly.

Comment (plp127) [reply CombinatorialGames/Game/Special.lean]: I guess I can change these in the same PR then?

**Review by vihdzp — APPROVED** [review]
